US04490541
43 parts of 2-cyano-3-chloro-N-methylmaleimide are introduced into 100 parts by volume of methanol, the mixture is heated at the boil for fifteen minutes and then cooled, and thereafter the precipitate is filtered off under suction, washed with a small amount of methanol and dried. 37 parts (88% of theory) of 2-cyano-3-methoxy-N-methylmaleimide of melting point 123°-125° C. are obtained. IR (KBr): 2220, 1720, 1640 cm-1.

reactant | 2-cyano-3-chloro-N-methylmaleimide | C(#N)C=1C(=O)N(C(C1Cl)=O)C | C6H3ClN2O2
reactant | methanol | CO | CH4O
product | 2-cyano-3-methoxy-N-methylmaleimide | 88% | C(#N)C=1C(=O)N(C(C1OC)=O)C | C7H6N2O3
